US05578627
To a solution of 1.0 g of 3-tert-butoxycarbonylamino-4-hydroxybutyronitrile in 15 ml of tetrahydrofuran are added 0.85 g of 5-chloro-3-hydroxy-1,2-benzoisoxazole, 1.71 g of triphenylphosphine and 1.14 g of diethyl azodicarboxylate with ice-cooling, and they are subjected to reaction at room temperature for 24 hours. Thereafter, the solvent is removed by distillation under reduced pressure. The residue obtained is purified by a column chromatography [eluant:n-hexane:ethyl acetate=5:1], to obtain 1.29 g of 3-(2-tert-butoxycarbonylamino-3-cyanopropoxy)-5-chloro-1,2-benzoisoxazole having a melting point of 147.2°-147.9° C.

reactant | 3-tert-butoxycarbonylamino-4-hydroxybutyronitrile | 1.0 g | C(C)(C)(C)OC(=O)NC(CC#N)CO | C9H16N2O3
reactant | 5-chloro-3-hydroxy-1,2-benzoisoxazole | 0.85 g | ClC=1C=CC2=C(C(=NO2)O)C1 | C7H4ClNO2
reactant | triphenylphosphine | 1.71 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.14 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 3-(2-tert-butoxycarbonylamino-3-cyanopropoxy)-5-chloro-1,2-benzoisoxazole | 1.29 g | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)CC#N | C16H18ClN3O4
